US07910592B2
Methyl 3′-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-chloropyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylate (120 mg, 0.966 mmol), isopropenylboronic acid (74.4 mg, 0.865 mmol), 1,1′-bis(di-tert-butylphosphino) ferrocene palladium dichloride (23.5 mg, 20%), aqueous potassium carbonate (1.21 mL, 1M, 1.21 mmol) and THF (1.2 mL) were heated in an 80° C. oil bath for 1 h and 25 min. Volatiles were then removed from the crude mixture under reduced pressure. The pot residue was treated with water followed by EtOAc extraction. The combined extracts were dried over Na2SO4 followed by filtration and concentration to afford a dark colored oil. The resulting oil was purified by a reversed-phase prep-HPLC (Kromasil 100-5C18, 100×21.1 mm) eluting with a MeCN (0.1% TPA, v/v)/H2O (0.1% TFA, v/v) gradient mixture. Related fractions were pooled and evaporated in vacuo to afford a light yellow oil. The oil was dissolved with CH2Cl2 and then washed with NaHCO3 (sat. aq.). The organic layer was separated and back washed with water, separated and dried over Na2SO4, filtered and concentrated in vacuo to afford methyl 3′-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropenylpyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylate, as a light yellow glass. LCMS calc.=698.22; found 699.23 (M+1).

reactant | Methyl 3′-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-chloropyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylate | 0.966 mmol, 120 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)OC)C)Cl)C)(F)F | C34H27ClF6N2O5
reactant | isopropenylboronic acid | 0.865 mmol, 74.4 mg | C(=C)(C)B(O)O | C3H7BO2
reactant | potassium carbonate | 1.21 mmol, 1M, 1.21 mL | C([O-])([O-])=O.[K+].[K+]
reactant | THF | 1.2 mL | C1CCOC1 | C4H8O
catalyst | 1,1′-bis(di-tert-butylphosphino) ferrocene palladium dichloride | 23.5 mg | [Pd](Cl)Cl.C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | methyl 3′-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropenylpyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylate | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)OC)C)C(=C)C)C)(F)F | C37H32F6N2O5
